US07820825B2
Preparation of (3S)-N,N-dimethyl-1-{4-[(1-methyl-1H-indol-3-yl)methyl]benzoyl}pyrrolidin-3-amine
Using essentially the same procedure described in Example 228 and employing methyl 4-((1-methyl-1H-indol-3-yl)methyl)benzoate and (S)—N,N-dimethylpyrrolidin-3-amine as starting materials, the title compound is obtained as a white solid, mp 101-105° C., identified by H1 NMR and mass spectral analyses. MS (ES) m/z 362.2; MS (ES) m/z 723.4.

reactant | methyl 4-((1-methyl-1H-indol-3-yl)methyl)benzoate | CN1C=C(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1 | C18H17NO2
reactant | (S)—N,N-dimethylpyrrolidin-3-amine | CN([C@@H]1CNCC1)C | C6H14N2
product | (3S)-N,N-dimethyl-1-{4-[(1-methyl-1H-indol-3-yl)methyl]benzoyl}pyrrolidin-3-amine | CN([C@@H]1CN(CC1)C(C1=CC=C(C=C1)CC1=CN(C2=CC=CC=C12)C)=O)C | C23H27N3O
